US07524845B2
2-Chloro-3-cyanopyridine (2.77 g), hydrazine (5 mL), and dioxane (100 mL) were combined in a sealed tube and heated at 150° C. for 16 hr. The reaction mixture was cooled to room temperature and concentrated in vacuo to provide a crude residue. The resultant residue was dissolved in ethyl acetate (100 mL) and washed with saturated NaCl solution (50 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford 1H-pyrazolo[3,4-b]pyridin-3-ylamine as a yellow solid which was used without further purification.

reactant | 2-Chloro-3-cyanopyridine | 2.77 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | hydrazine | 5 mL | NN | H4N2
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1H-pyrazolo[3,4-b]pyridin-3-ylamine | N1N=C(C=2C1=NC=CC2)N | C6H6N4
